US07390903B2
To a stirred solution of 32 mg (0.13 mmol) (2-amino-benzo[b]thiophen-3-yl)-phenyl-methanone in 2 ml acetic acid was added 0.09 ml (0.13 mmol) of pentane-2,4-dione and one drop of sulfuric acid. The mixture was then stirred at 100° C. for 10 minutes in a microwave and then concentrated in vacuo. Flash chromatography (heptane/ethyl acetate 6:1) afforded 21 mg (52%) (2-methyl-4-phenyl-benzo[4,5]thieno[2,3-b]pyridin-3-yl)-ethanone as a light yellow solid. ES-MS m/e (%): 318 (M+H+, 100).

reactant | (2-amino-benzo[b]thiophen-3-yl)-phenyl-methanone | 0.13 mmol, 32 mg | NC1=C(C2=C(S1)C=CC=C2)C(=O)C2=CC=CC=C2 | C15H11NOS
reactant | pentane-2,4-dione | 0.13 mmol, 0.09 ml | CC(CC(C)=O)=O | C5H8O2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | (2-methyl-4-phenyl-benzo[4,5]thieno[2,3-b]pyridin-3-yl)-ethanone | 21 mg, 52% | CC1=C(C(=C2C(=N1)SC1=C2C=CC=C1)C1=CC=CC=C1)C(C)=O | C20H15NOS
